US04017629
6.9 g of 3-aminocrotonic acid methyl ester and 13.9 g of phenylsulphonylacetone are added to 9.1 g of o-nitrobenz- aldehyde dissolved in 50 ml of hexamethylphosphoric acid triamide. The mixture is then stirred for 10 hours under nitrogen at a bath temperature of 110° C. The mixture is cooled and dissolved in 400 ml of ethyl acetate and the solution is washed with a mixture of 400 ml of water, 60 ml of methanol and 60 ml of saturated sodium chloride solution. The aqueous phase is separated off and the organic phase is washed with 3 times 100 ml of water, with twice 100 ml of 1 N hydrochloric acid solution, with twice 60 ml of saturated sodium bicarbonate solution and once with 60 ml of 2 N sodium carbonate solution. The ethyl acetate phase is dried over sodium sulphate and evaporated. The residue is chromatographed on silica gel using a mixture of toluene and ethyl acetate (7:3) as the eluant. The eluate is evaporated and crystallised from methanol. In this way, 2,6dimethyl-3-carbomethoxy-4-(2-nitrophenyl)-5- phenylsulphonyl-1,4-dihydropyridine, of melting point 203° C, is obtained.

reactant | 3-aminocrotonic acid methyl ester | 6.9 g | COC(\C=C(\C)/N)=O | C5H9NO2
reactant | phenylsulphonylacetone | 13.9 g | C1(=CC=CC=C1)S(=O)(=O)CC(C)=O | C9H10O3S
reactant | o-nitrobenz- aldehyde | 9.1 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
solvent | hexamethylphosphoric acid triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 2,6dimethyl-3-carbomethoxy-4-(2-nitrophenyl)-5- phenylsulphonyl-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1)C | C21H20N2O6S
